US07662771B2
Using a method similar to the procedure described for the preparation of 4-[4-(2-amino-phenyl)-oxazol-2-yl]-butyric acid; hydrolysis of 6-[4-(2-amino-phenyl)-oxazol-2-yl]-hexanoic acid ethyl ester (2.7 g, 8.9 mmol) gives 6-[4-(2-amino-phenyl)-oxazol-2-yl]-hexanoic acid (2.03 g, 83%). MS (ES): (M+1)+ 274.9 m/z.

reactant | 4-[4-(2-amino-phenyl)-oxazol-2-yl]-butyric acid | NC1=C(C=CC=C1)C=1N=C(OC1)CCCC(=O)O | C13H14N2O3
reactant | 6-[4-(2-amino-phenyl)-oxazol-2-yl]-hexanoic acid ethyl ester | 8.9 mmol, 2.7 g | C(C)OC(CCCCCC=1OC=C(N1)C1=C(C=CC=C1)N)=O | C17H22N2O3
product | 6-[4-(2-amino-phenyl)-oxazol-2-yl]-hexanoic acid | 2.03 g, 83% | NC1=C(C=CC=C1)C=1N=C(OC1)CCCCCC(=O)O | C15H18N2O3
